US07893049B2
H-5a) 1-(4-nitro-benzyl)-1H-imidazole
Potassium carbonate (3.1 g, 23 mmol) is added to a solution of 4-nitrobenzylbromide (5 g, 23 mmol) and imidazole (1.6 g, 23 mmol) and the reaction mixture is stirred at RT. After the reaction has been completed according to HPLC-MS the suspension is poured into 800 mL water and extracted three times with ethyl acetate. The combined organic phases are washed with saturated sodium chloride solution, dried on sodium sulphate and evaporated down. The residue is purified by chromatography on silica gel with dichloromethane/methanol. Yield: 2.1 g.

reactant | Potassium carbonate | 23 mmol, 3.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-nitrobenzylbromide | 23 mmol, 5 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | imidazole | 23 mmol, 1.6 g | N1C=NC=C1 | C3H4N2
solvent | water | 800 mL | O | H2O
product | 1-(4-nitro-benzyl)-1H-imidazole | [N+](=O)([O-])C1=CC=C(CN2C=NC=C2)C=C1 | C10H9N3O2
